US07335799B2
Sodium borohydride (8.0 g, 0.21 mol) was added in portions to 2,2-dimethyl-8-oxododecanoic acid (27.02 g, 0.11 mol) in ethanol (200 mL), followed by addition of Na2CO3 (5 g) while the reaction mixture was gently refluxed. The reaction mixture was stirred at 40-50° C. for 3.5 h and at 60° C. for 1 h. Water (100 mL) and aqueous HCl (10%, 100 mL) were added. The mixture was extracted with ethyl acetate (3×80 mL). The organic solutions were combined, washed with water (100 mL) and brine (2×50 mL), and dried over MgSO4. The solvent was evaporated and the residue was purified twice by column chromatography (silica gel, ethyl acetate/heptane=1:3). Coevaporation with toluene and drying in high vacuo at 70° C. for 1 h gave 8-hydroxy-2,2-dimethyldodecanoic acid (9.6 g, 35%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.5-6.5 (br, 1H), 3.60 (m, 1H), 1.53-1.29 (m, 17H), 1.21 (s, 6H), 0.91 (t, J=6.6 Hz, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 185.0, 73.0, 43.1, 41.5, 38.2, 38.0, 31.2, 28.8, 26.5, 26.0, 25.9, 23.8, 15.1. HRMS (LSIMS, gly): Calcd for C14H29O3 (MH+): 245.2116, found: 245.2107. HPLC: 97.1% pure. Elemental analysis (C14H28O3): Calcd for C, 68.81; H, 68.67. Found: C, 68.67; H, 11.64.

reactant | Sodium borohydride | 0.21 mol, 8.0 g | [BH4-].[Na+]
reactant | 2,2-dimethyl-8-oxododecanoic acid | 0.11 mol, 27.02 g | CC(C(=O)O)(CCCCCC(CCCC)=O)C | C14H26O3
reactant | Na2CO3 | 5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 100 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | Water | 100 mL | O | H2O
product | 8-hydroxy-2,2-dimethyldodecanoic acid | 9.6 g, 35% | OC(CCCCCC(C(=O)O)(C)C)CCCC | C14H28O3
